US08809267B2
2-Isopropylamino-thiazole-4-carboxylic acid [6-acetyl-2-chloro-3-(2,2-dimethoxy-ethoxy)-phenyl]-amide (18 g, 40.7 mmol) was suspended in toluene (400 ml). NaH (2.4 g, 61 mmol) was added to the vigorously stirred mixture while monitoring H2 evolution. The mixture became a clear solution during heating to reflux. After refluxing for 3 h, the mixture was cooled to room temperature. A solution of AcOH (69.2 mmol) in H2O (3 vol) was added to the mixture. After vigorous agitation for 1 h at 0° C., the solids were collected by filtration and rinsed with H2O. The wet cake was dried under high vacuum to a constant weight to provide 8-chloro-7-(2,2-dimethoxy-ethoxy)-2-(2-isopropylaminothiazol-4-yl)-quinolin-4-ol (15 g, 86% yield).

reactant | 2-Isopropylamino-thiazole-4-carboxylic acid [6-acetyl-2-chloro-3-(2,2-dimethoxy-ethoxy)-phenyl]-amide | 40.7 mmol, 18 g | C(C)(=O)C1=CC=C(C(=C1NC(=O)C=1N=C(SC1)NC(C)C)Cl)OCC(OC)OC | C19H24ClN3O5S
reactant | NaH | 61 mmol, 2.4 g | [H-].[Na+]
reactant | AcOH | 69.2 mmol | CC(=O)O | C2H4O2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | 8-chloro-7-(2,2-dimethoxy-ethoxy)-2-(2-isopropylaminothiazol-4-yl)-quinolin-4-ol | 15 g, 86% yield | ClC=1C(=CC=C2C(=CC(=NC12)C=1N=C(SC1)NC(C)C)O)OCC(OC)OC | C19H22ClN3O4S
